US08609150B2
18.3 ml of n-butyllithium (1.57 mol/l hexane solution, 27 mmol) was dropwise added at 0° C. to a solution having 3.84 g (27 mmol) of 2,2,6,6-tetramethylpiperidine dissolved in 36 ml of tetrahydrofuran under an argon stream, followed by stirring at 0° C. for 30 minutes. The obtained solution was cooled to −78° C., and a solution having 6.10 g (27 mmol) of 5-bromo-4-chloro-2-methoxypyridine dissolved in 24 ml of tetrahydrofuran was added, followed by stirring at the same temperature for 2 hours to prepare 5-bromo-4-chloro-2-methoxy-3-pyridyllithium. Then, a solution having 5.50 g (26 mmol) of 2,3,4-trimethoxy-6-methylbenzaldehyde dissolved in 24 ml of tetrahydrofuran was added, followed by stirring at the same temperature for 1 hour. To the reaction mixture, 37 ml of a saturated ammonium chloride aqueous solution and then 150 ml of water were added, and the temperature was increased to room temperature, followed by extraction with ethyl acetate (150 ml each) three times. The organic layer was washed with a saturated sodium chloride solution (100 ml), dried over magnesium sulfate and subjected to filtration, and the solvent was distilled off under reduced pressure. The obtained crude product was purified by silica gel chromatography to obtain 6.53 g (yield: 56%) of (2,3,4-trimethoxy-6-methylphenyl)(5-bromo-4-chloro-2-methoxy-3-pyridyl)methanol.

reactant | n-butyllithium | 27 mmol, 1.57 mol/l, 18.3 ml | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 27 mmol, 3.84 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 5-bromo-4-chloro-2-methoxypyridine | 27 mmol, 6.10 g | BrC=1C(=CC(=NC1)OC)Cl | C6H5BrClNO
reactant | 5-bromo-4-chloro-2-methoxy-3-pyridyllithium | BrC=1C(=C(C(=NC1)OC)[Li])Cl
reactant | 2,3,4-trimethoxy-6-methylbenzaldehyde | 26 mmol, 5.50 g | COC1=C(C=O)C(=CC(=C1OC)OC)C | C11H14O4
reactant | ammonium chloride | 37 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | (2,3,4-trimethoxy-6-methylphenyl)(5-bromo-4-chloro-2-methoxy-3-pyridyl)methanol | 6.53 g, yield: 56% | COC1=C(C(=CC(=C1OC)OC)C)C(O)C=1C(=NC=C(C1Cl)Br)OC | C17H19BrClNO5
